US04331683
trans-N-(1-Methyldecyl)-2-(4-nitrophenyl)cyclopropanecarboxamide
To a stirred slurry of 2.1 g. of trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid in 30 ml. of tetrahydrofuran was added 1.1 g. of triethylamine. The clear solution thus obtained was cooled to ca. 5° C., and a solution of 1.2 g. of ethyl chloroformate in 5 ml. of chloroform was added dropwise, with stirring, during 15 minutes. Stirring was continued for 20 minutes, and then a solution of 1.9 g. of 1-methyldecylamine in 5 ml. of chloroform was added dropwise during 15 minutes. The cooling bath was removed, and stirring was continued for 1 hour. At this point the solvent was removed in vacuo and the residue was triturated with ether. The solid which remained out of solution was removed by filtration and discarded. The ether was evaporated in vacuo, and the residue was recrystallized from a 1:1 mixture of isopropanol and petroleum ether. This afforded 2.9 g. of the title compound as a waxy solid.

reactant | trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 1-methyldecylamine | CC(CCCCCCCCC)N | C11H25N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trans-N-(1-Methyldecyl)-2-(4-nitrophenyl)cyclopropanecarboxamide | CC(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H32N2O3
